US04423213
To a solution of benzhydryl 7-salicylideneamino-3-vinyl-3-cephem-4-carboxylate (1.6 g) in methylene chloride (20 ml) and anisole (5 ml) was added dropwise trifluoroacetic acid (6 ml) with stirring, and the stirring was continued at ambient temperature for an hour. The reaction mixture was poured into diisopropyl ether, and the precipitates were collected by filtration and then suspended in water, followed by adjusting to pH 3.5 with a saturated aqueous sodium bicarbonate. The solid was collected by filtration to give 7-amino-3-vinyl-3-cephem-4-carboxylic acid (0.4 g).

reactant | benzhydryl 7-salicylideneamino-3-vinyl-3-cephem-4-carboxylate | 1.6 g | C(C=1C(O)=CC=CC1)=NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H24N2O4S
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-amino-3-vinyl-3-cephem-4-carboxylic acid | 0.4 g | NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C9H10N2O3S
